US07682771B2
A stirred mixture of 30 g NaBH4 (Aldrich), 50 mL HFE, and 400 mL dry dimethoxyethane was treated over 6 hours with 1000 g C3F7O(CF(CF3)CF2O)5CF(CF3)COOCH3, resulting in an exotherm, and the mixture was stirred at 50° C. overnight. After cooling, the mixture was cautiously treated with first 50 mL MeOH and then 75 mL 5% HCl, with the first few mL of HCl causing vigorous foaming. Addition of 300 mL water, filtration of some white solid at the interphase, and stripping the lower layer gave 931 g C3F7O(CF(CF3)CF2O)5CF(CF3)CH2OH. A solution of 322 g of this and 38.9 g diisopropylethylamine (Aldrich) in 150 mL HFE was treated dropwise with 25.0 g acryloyl chloride (Aldrich), forming a white solid. This was stirred overnight at 50° C., cooled, treated with 4 mL water, 5.0 g K2CO3, and 25 g silica gel, waiting about 2 hours between each addition. The mixture was filtered and stripped to give 297.5 g of HFPO-5-DHA.

reactant | NaBH4 | 30 g | [BH4-].[Na+]
reactant | dimethoxyethane | 400 mL | C(OC)COC | C4H10O2
reactant | C3F7O(CF(CF3)CF2O)5CF(CF3)COOCH3 | 1000 g | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(=O)OC | C22H3F41O8
reactant | HCl | 75 mL | Cl | ClH
solvent | water | 300 mL | O | H2O
solvent | MeOH | 50 mL | CO | CH4O
product | C3F7O(CF(CF3)CF2O)5CF(CF3)CH2OH | 931 g | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)CO | C21H3F41O7
